US07696223B2
c) [(7-Hydroxy-4-methyl-2-phenyl-thiazolo[5,4-c]pyridine-6-carbonyl)-amino]-acetic acid
A mixture of 7-hydroxy-4-methyl-2-phenyl-thiazolo[5,4-c]pyridine-6-carboxylic acid ethyl ester (105 mg, 0.33 mmole) and glycine (500 mg, 6.65 mmole) in 0.5 M sodium methoxide/methanol (12.6 ml) was refluxed for 3 days before it was cooled to room temperature and concentrated in vacuo. The residue was dissolved in water (30 ml) and extracted twice with methyl t-butyl ether. The remaining aqueous layer was acidified to pH=3 with 1N HCl (9 ml). The resulting precipitate was filtered, washed with water and dried in vacuo to give the title compound as a yellow solid (25 mg): 1H NMR (DMSO-d6, 200 MHz): δ=13.08 (br s, 1H), 9.22 (t, 1H), 8.13 (m, 2H), 7.61 (m, 3H), 4.02 (d, J=6.2 Hz, 2H), 2.72 (s, 3H); MS: (+) m/z 344.26 (M+1).

reactant | 7-hydroxy-4-methyl-2-phenyl-thiazolo[5,4-c]pyridine-6-carboxylic acid ethyl ester | 0.33 mmole, 105 mg | C(C)OC(=O)C1=C(C2=C(C(=N1)C)SC(=N2)C2=CC=CC=C2)O | C16H14N2O3S
reactant | glycine | 6.65 mmole, 500 mg | NCC(=O)O | C2H5NO2
solvent | sodium methoxide methanol | 0.5 M, 12.6 ml | C[O-].[Na+].CO
product | [(7-Hydroxy-4-methyl-2-phenyl-thiazolo[5,4-c]pyridine-6-carbonyl)-amino]-acetic acid | 25 mg | OC=1C2=C(C(=NC1C(=O)NCC(=O)O)C)SC(=N2)C2=CC=CC=C2 | C16H13N3O4S
